US08877780B2
5.33 N-((2-(2,6-DIOXOPIPERIDIN-3-YL)-1,3-DIOXOISOINDOLIN-5-YL)METHYL)-4-(TRIFLUOROMETHYLTHIO)BENZAMIDE
TEA was added to a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (1.0 g, 3.1 mmol) and 4-(trifluoromethylthio)benzoyl chloride (0.75 g, 3.1 mmol) in acetonitrile (30 mL), and the resulting mixture was stirred at room temperature for 1 hour. The mixture was diluted with water (100 mL) and ethyl acetate (100 mL). The organic phase was separated and concentrated in vacuo. The residue was chromatographed on silica gel using a hexanes-ethyl acetate gradient, eluting 1.2 g of the product at 60-70% ethyl acetate, in 76% yield as a white solid; mp 171-173° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 4.72 (97.94%); 1H NMR (DMSO-d6) δ 2.02-2.10 (m, 1H), 2.46-2.63 (m, 2H), 2.83-2.95 (m, 1H), 4.66 (d, J=5.8 Hz, 2H), 5.15 (dd, J=12.8 Hz, J=5.3 Hz, 1H), 7.81-7.92 (m, 5H), 8.00-8.03 (m, 2H), 9.41 (t, J=5.8 Hz, 1H), 11.13 (s, 1H); 13C NMR (DMSO-d6) δ 22.0, 30.9, 42.7, 49.0, 122.0, 123.6, 126.4, 128.7, 129.5 (q, J=306 Hz), 129.9, 131.6, 133.5, 135.9, 136.5, 147.2, 165.5, 167.0, 167.1, 169.8, 172.7; Anal. Calcd for C22H16N3O5F3S: C, 53.77; H, 3.28; N, 8.55. Found: C, 53.55; H, 3.14; N, 8.37.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.1 mmol, 1.0 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 4-(trifluoromethylthio)benzoyl chloride | 3.1 mmol, 0.75 g | FC(SC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3OS
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-((2-(2,6-DIOXOPIPERIDIN-3-YL)-1,3-DIOXOISOINDOLIN-5-YL)METHYL)-4-(TRIFLUOROMETHYLTHIO)BENZAMIDE | 76% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)SC(F)(F)F)=O)=O)=O | C22H16F3N3O5S
